US09315458B2
F) methyl 3-chloro-2-formyl-5-(4-methoxybenzyl)-4-methylbenzoate
To a solution of methyl 3-chloro-5-(4-methoxybenzyl)-4-methyl-2-vinylbenzoate (0.31 g) in a mixed solvent of acetone (3.60 mL)-acetonitrile (3.60 mL)-water (3.60 mL) were added osmium oxide (fixed catalyst I) (0.12 g) and sodium periodate (1.00 g), and the mixture was stirred overnight at room temperature. The reaction mixture was filtered, and the filtrate was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure to give the title compound (0.31 g) as a crude product. This compound was used in the next step without an additional purification.

reactant | methyl 3-chloro-5-(4-methoxybenzyl)-4-methyl-2-vinylbenzoate | 0.31 g | ClC=1C(=C(C(=O)OC)C=C(C1C)CC1=CC=C(C=C1)OC)C=C | C19H19ClO3
reactant | acetone | 3.60 mL | CC(=O)C | C3H6O
reactant | acetonitrile | 3.60 mL | C(C)#N | C2H3N
reactant | sodium periodate | 1.00 g | I(=O)(=O)(=O)[O-].[Na+]
catalyst | osmium oxide | [Os]=O
catalyst | osmium oxide | 0.12 g | [Os]=O
solvent | water | 3.60 mL | O | H2O
product | methyl 3-chloro-2-formyl-5-(4-methoxybenzyl)-4-methylbenzoate | 0.31 g | ClC=1C(=C(C(=O)OC)C=C(C1C)CC1=CC=C(C=C1)OC)C=O | C18H17ClO4
